US08071581B2
Intermediate 55: 3-Chloro-6-vinyl-pyridazine
A mixture of 3,6-dichloropyridazine (6 g, 40.3 mmol), vinyl boronic acid pinnacol ester (6.21 g, 6.83 mL, 40.3 mmol), potassium carbonate (120 mmol, 16.7 g), 1,4-dioxane (60 mL) and water (24 mL) was degassed for 15 min with nitrogen gas. Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (0.4 mmol, 292 mg) was then added and the mixture heated to 80° C. for 4 hours. The aqueous phase was then removed via pipette and the organic phase concentrated onto silica gel and purified via flash column chromatography (SiO2, hexane:ethyl acetate 100:0-60:40) to return the title compound as a white solid (5.2 g, 92% yield). 1H NMR (CDCl3): δ 5.75 (1H, d), 6.25 (1H, d), 7.05 (1H, dd), 7.49 (1H, d), 7.59 (1H, d). MS m/z=141 (M+H+)+.

reactant | 3,6-dichloropyridazine | 40.3 mmol, 6 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | vinyl boronic acid | 40.3 mmol, 6.83 mL, 6.21 g | C(=C)B(O)O | C2H5BO2
reactant | potassium carbonate | 120 mmol, 16.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-dioxane | 60 mL | O1CCOCC1 | C4H8O2
catalyst | Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.4 mmol, 292 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
solvent | water | 24 mL | O | H2O
product | 3-Chloro-6-vinyl-pyridazine | 5.2 g, 92% yield | ClC=1N=NC(=CC1)C=C | C6H5ClN2
